US05516774
N-[4-(4H-Furo[2,3-e]pyrrolo[1,2-a][1,4]diazepin-10-(9H)-ylcarbonyl)phenyl]-2-methylbenzamide
To a mixture of 1.1 mmol of 4-[(2-methylbenzoyl)amino]benzoyl chloride in 10 ml of methylene chloride, cooled to 0° C. is added 1.5 mmol of triethylamine. To the mixture is added 1 mmol of 9,10-dihydro-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine and the mixture stirred at toom temperature for 2 hours. The reaction mixture is concentrated in vacuo and the residue is dissolved in 100 ml of ethyl acetate and washed with water, 2N citric acid, aqueous NaHCO3 and brine. The solution is dried with Na2SO4 and the volatiles concentrated in vacuo to give a solid which is purified by flash chromatography to give the desired product.

reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 1.1 mmol | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 9,10-dihydro-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine | 1 mmol | O1C=CC2=C1NCC=1N(C2)C=CC1 | C10H10N2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(4H-Furo[2,3-e]pyrrolo[1,2-a][1,4]diazepin-10-(9H)-ylcarbonyl)phenyl]-2-methylbenzamide | O1C=CC2=C1N(CC=1N(C2)C=CC1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O | C25H21N3O3
